US03997535
d. 4(2-Formyloxyethyl)-3,4-dihydro-3-oxo-N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide
4(2-Formyloxyethyl)-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid (1 g) and N,N'-carbonyldiimidazole (0.6 g) in dry tetrahydrofuran (100 ml) were heated under reflux for 15 minutes. 5-Amino-1H-tetrazole (0.5 g) in dimethylformamide (5 ml) was added and the mixture was heated under reflux for 1 hour. The solid was collected and treated with aqueous hydrochloric acid (25 ml., 2N). It was filtered off, dried and crystallised from aqueous dimethylformamide. It had m.p. 240°-241° (d).

reactant | 4(2-Formyloxyethyl)-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid | 1 g | C(=O)OCCN1C(C(=NC2=CC=CC=C12)C(=O)O)=O | C12H10N2O5
reactant | 5-Amino-1H-tetrazole | 0.5 g | NC1=NN=NN1 | CH3N5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4(2-Formyloxyethyl)-3,4-dihydro-3-oxo-N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide | C(=O)OCCN1C(C(=NC2=CC=CC=C12)C(=O)NC1=NN=NN1)=O | C13H11N7O4
